US05106862
Preparation of 4-benzyloxybenzimidazole
A mixture of 3-benzyloxy-1,2-diaminobenzene 1.6 g (0.0073 mol) and formic acid (2.6 g, 0.057 mol) was heated to reflux for 1.5 h. The resulting mixture was then cooled, dissolved in methylene chloride, washed with 10% sodium carbonate solution, dried (Na2SO4) and evaporated to dryness in vacuo. The residue was recrystallized from acetonitrile to give the title compound in 0.75 g (46%) yield, m.p. 165°-167° C.

reactant | 3-benzyloxy-1,2-diaminobenzene | 0.0073 mol, 1.6 g | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)N)N | C13H14N2O
reactant | formic acid | 0.057 mol, 2.6 g | C(=O)O | CH2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-benzyloxybenzimidazole | C(C1=CC=CC=C1)OC1=CC=CC=2N=CNC21 | C14H12N2O
